US04377576
5,10-Dihydro-10-ethyl-5-[3-(2-methyl-piperidino)-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11-one hydrochloride
6.6 gm (0.02 mol) of 5-(3-chloro-propionyl)-5,10-dihydro-10-ethyl-11H-dibenzo[b,e][1,4]diazepin-11-one (m.p. 133°-134° C.) and 5 gm (0.05 mol) of 2-methyl-piperidine were refluxed in 100 ml of isopropanol for 2 hours. The reaction mixture was evaporated in vacuo, the residue was dissolved in methylene chloride, and the solution was washed with water. After evaporation of the solvent, the residue was dissolved in hot acetone, and the calculated amount of hydrochloric acid was added.

reactant | 5-(3-chloro-propionyl)-5,10-dihydro-10-ethyl-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.02 mol, 6.6 gm | ClCCC(=O)N1C2=C(N(C(C3=C1C=CC=C3)=O)CC)C=CC=C2 | C18H17ClN2O2
reactant | 2-methyl-piperidine | 0.05 mol, 5 gm | CC1NCCCC1 | C6H13N
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 5,10-Dihydro-10-ethyl-5-[3-(2-methyl-piperidino)-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11-one hydrochloride | Cl.C(C)N1C2=C(N(C3=C(C1=O)C=CC=C3)C(CCN3C(CCCC3)C)=O)C=CC=C2 | InChI=1S/C24H29N3O2.ClH/c1-3-26-21-13-6-7-14-22(21)27(20-12-5-4-11-19(20)24(26)29)23(28)15-17-25-16-9-8-10-18(25)2;/h4-7,11-14,18H,3,8-10,15-17H2,1-2H3;1H
